US06894200B2
Synthesis of 6-bromo-1,2-difluoronaphthalene
Zinc (0.89 g, 14 mmol) was added to a stirred mixture of 2.4 g (8.7 mmol) of 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene, 4 ml of water, 6 ml of THF, and 7.6 g of tetramethylammonium hydroxide pentahydrate that was cooled in an ice bath. The mixture was allowed to warm to room temperature. After 2 hours, the zinc was filtered, and the phases were separated. The aqueous layer was extracted three times with hexanes. The combined organic phase was washed three times with brine, stirred over MgSO4 and activated carbon for 3 hours, and then stored for 15 hours. The MgSO4 and carbon were filtered off, and the solvent was removed under vacuum. A colorless solid (1.9 g, 7.7 mmol, 89%) remained.

reactant | 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 8.7 mmol, 2.4 g | BrC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5BrF4
reactant | water | 4 ml | O | H2O
reactant | tetramethylammonium hydroxide pentahydrate | 7.6 g | O.O.O.O.O.[OH-].C[N+](C)(C)C
catalyst | Zinc | 14 mmol, 0.89 g | [Zn] | Zn
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 6-bromo-1,2-difluoronaphthalene | BrC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5BrF2
